US06403586B1
Preparation of 2-Cyclopentylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and cyclopentylmethyl methanesulfonate as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 88.5%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | cyclopentylmethyl methanesulfonate | CS(=O)(=O)OCC1CCCC1 | C7H14O3S
product | 2-Cyclopentylmethyl-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 88.5% | C1(CCCC1)CN1N=C(C=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)OC | C20H24N2O4
